*MOSFET Differential Amplifier
* NMOS Transistor
M1 3 1 2 2 NMOS
* PMOS Transistor
M2 5 3 2 2 PMOS
* Current Source
I1 2 0 DC ISS
* Resistor
R1 6 5 ro4
* Voltage Source
V1 6 0 DC VDD
* Input
? Missing component
